US07199239B2
[4-({Butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetic acid
To a solution of ethyl [4-({butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate (100 mg, 0.18 mmol) in methanol (4 mL) and tetrahydrofuran (4 mL), was added 2M NaOH aq. (2 mL). After stirring for 1 h at room temperature the solvent was removed in vacuo and the residue acidified with 2M HCl, before extraction into ethyl acetate (2×20 mL). The organic solution was dried (MgSO4) and the solvents removed in vacuo to afford the title compound as a white solid (85 mg).

reactant | ethyl [4-({butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetate | 0.18 mmol, 100 mg | C(CCC)N(S(=O)(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C28H30F3NO5S
reactant | NaOH | 2M, 2 mL | [OH-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | [4-({Butyl[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}sulfonyl)-2-methylphenoxy]acetic acid | 85 mg | C(CCC)N(S(=O)(=O)C1=CC(=C(OCC(=O)O)C=C1)C)C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C26H26F3NO5S
